### PR TITLE
prove lemma relating Pos.iter_op to Pos.iter

### PR DESCRIPTION
**Pull request by andres-erbsen**
- [x] Added **changelog**.

### CODE REVIEW

File: theories/PArith/BinPos.v [hunk 1]
```diff
@@ -1649,6 +1649,15 @@ Proof.
  rewrite H. apply IHp.
 Qed.
 
+Lemma iter_op_correct {A} op x p zero
+  (op_zero_r : op x zero = x)
+  (op_assoc : forall x y zero : A, op x (op y zero) = op (op x y) zero)
```
Comment (proux01) [inline theories/PArith/BinPos.v:1654]: Calling the third quantified variable zero feels a bit strange?

**Review by proux01 — APPROVED** [review]
Will merge next week if no more comments.

File: theories/PArith/BinPos.v (hunk 1 above)
Comment (andres-erbsen) [reply theories/PArith/BinPos.v:1654]: Any suggestions? How about `z`?

Comment (proux01) [reply theories/PArith/BinPos.v:1654]: Yes, `z` is what I would have expected.

**Comment by proux01** [comment]
@coqbot merge now
